US07749992B2
Step 2. Preparation of 6-Amino-2-fluoro-3-methyl-benzoic acid methyl ester
Dissolve in ethylacetate (1 mL) and ethanol (1 mL) 6-Amino-2-fluoro-3-methyl-benzoic acid and 2-Amino-4-fluoro-5-methyl-benzoic acid (240 mg, 1.42 mmol) and add (trimethylsilyl) diazomethane (0.7 mL, 1.4 mmol, 2M in hexane) at room temperature and stir the solution for 16 h. Remove the solvent under reduced pressure. Chromatograph the residue over silica gel, eluting with hexanes/ethyl acetate (10:1), to afford the titled compound (50 mg). 1H NMR (CDCl3, 300 MHz) δ 2.13 (d, J=2.4 Hz, 3H), 3.9 (s, 3H), 6.39 (dd, J=0.8, 8.5 Hz, 1H), 7.04 (t, J=8.1 Hz, 1H). MS (ES+): 184 (M+H).

reactant | ethanol | 1 mL | C(C)O | C2H6O
reactant | 2-Amino-4-fluoro-5-methyl-benzoic acid | 1.42 mmol, 240 mg | NC1=C(C(=O)O)C=C(C(=C1)F)C | C8H8FNO2
reactant | (trimethylsilyl) diazomethane | 1.4 mmol, 2M, 0.7 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | ethylacetate | 1 mL | C(C)OC(C)=O | C4H8O2
product | 6-Amino-2-fluoro-3-methyl-benzoic acid methyl ester | 50 mg | COC(C1=C(C(=CC=C1N)C)F)=O | C9H10FNO2
